US04123529
(a) 5-Phenyl-2-(2-hydroxyethyl)thiophene
2-Phenylthiophene(16.0g;0.1 mole) was reacted in a similar manner to Example 40 but using ethylene oxide (10ml; 0.2 mole) instead of paraformaldehyde. The title compound was obtained as a pale yellow crystalline solid, m.p. 74° C.

reactant | 2-Phenylthiophene | 0.1 mole, 16.0g | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | ethylene oxide | 0.2 mole, 10ml | C1CO1 | C2H4O
product | 5-Phenyl-2-(2-hydroxyethyl)thiophene | C1(=CC=CC=C1)C1=CC=C(S1)CCO | C12H12OS
